US04474754
0.78 Grams of Boc-Asn-Arg-Arg-Ala-NHNH2 was dissolved in 8 ml of dimethylformamide and 1.03 ml of 6N-hydrochloric acid/dioxane, after the solution was cooled to -15° C. 0.16 ml of isoamyl nitrate was added thereinto and stirred for 5 minutes. Next 0.87 ml of triethylamine was added to neutralize the reaction mixture. This reaction mixture was added to a mixture consisting of Peptide A, i.e., H-Leu-Ile-Leu-Leu-Ala-Gln-OH, 0.87 ml of triethylamine, 20 ml of dimethylformamide and 10 ml of hexamethylphosphoric triamide, and the obtaining mixture was stirred at 4° C. for 24 hours. Further a product being converted 0.39 g of Boc-Asn-Arg-Arg-Ala-NHNH2 into azide was added to said mixture and stirred for 48 hours. Dimethylformamide was removed by distillation, the residue thus obtained was extracted with butanol. The extract was washed with water and butanol was removed by distillation. The residue thus obtained was recrystallized from ether, and the crystals precipitated were collected by filtration, washed with water and dried on phosphorus pentoxide. Boc-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH thus obtained was dissolved in 3 ml of trifluoroacetic acid and was allowed to stand at a room temperature for 15 minutes, then dried ether was added thereto to precipitate the crystals and the crystals were collected by filtration. After the crystals were dried, they were purified by using Sephadex G-25 (eluting solvent: 50% acetic acid) to obtain 120 mg of H-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH.

reactant | Boc-Asn-Arg-Arg-Ala-NHNH2 | N([C@@H](CC(N)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](C)C(=O)NN)C(=O)OC(C)(C)C | C24H47N13O7
reactant | hydrochloric acid dioxane | Cl.O1CCOCC1
reactant | isoamyl nitrate | 0.16 ml | [N+](=O)(OCCC(C)C)[O-] | C5H11NO3
reactant | H-Leu-Ile-Leu-Leu-Ala-Gln-OH | N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O | C32H59N7O8
reactant | Boc-Asn-Arg-Arg-Ala-NHNH2 | 0.39 g | N([C@@H](CC(N)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](C)C(=O)NN)C(=O)OC(C)(C)C | C24H47N13O7
reactant | azide | [N-]=[N+]=[N-]
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | hexamethylphosphoric triamide | 10 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | triethylamine | 0.87 ml | C(C)N(CC)CC | C6H15N
solvent | triethylamine | 0.87 ml | C(C)N(CC)CC | C6H15N
product | Boc-Asn-Arg-Arg-Ala-Leu-Ile-Leu-Leu-Ala-Gln-OH | N([C@@H](CC(N)=O)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](CCCNC(N)=N)C(=O)N[C@@H](C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C)C(=O)N[C@@H](CCC(N)=O)C(=O)O)C(=O)OC(C)(C)C | C56H102N18O15
